US07291642B2
18a) tert.-Butyl (3-chloropropyl)-[2-(4-cyanophenyl)ethyl]carbamate
At room temperature, 0.23 g (9.03 mmol) of sodium hydride (95%) was added to a solution of 1.482 g (6.02 mmol) of tert.-butyl [2-(4-cyanophenyl)ethyl]carbamate in 25 ml of tetrahydrofuran/25 ml of dimethylformamide. The mixture was stirred for a further 15 minutes. 1.49 ml (15.04 mmol) of 1-bromo-3-chloropropane were then added, and the reaction mixture was stirred at room temperature overnight. With ice bath cooling, the mixture was then quenched with water, and extracted with ethyl acetate. The organic extracts were washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated to dryness. The crude product obtained in this manner was purified by column chromatography on silica gel (mobile phase: petroleum ether/ethyl acetate 4:1).

reactant | sodium hydride | 9.03 mmol, 0.23 g | [H-].[Na+]
reactant | tert.-butyl [2-(4-cyanophenyl)ethyl]carbamate | 6.02 mmol, 1.482 g | C(#N)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C14H18N2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 1-bromo-3-chloropropane | 15.04 mmol, 1.49 ml | BrCCCCl | C3H6BrCl
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | tert.-Butyl (3-chloropropyl)-[2-(4-cyanophenyl)ethyl]carbamate | ClCCCN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C#N | C17H23ClN2O2
